US07056918B2
(1-Cyclobutyl-3-methyl-2-oxo-2,3-dihydro-1H-benzoimidazol-5-yl)-acetic acid (11.99 g) was diluted with dichloromethane (200 mL) and was treated with carbonyl diimidazole (7.5 g). After 0.5 hour the mixture was treated with N,O-dimethylhydroxylamine hydrochloride (4.4 g) and was stirred at 23° C. for 18 hours. The mixture was then diluted with saturated sodium bicarbonate and extracted into dichloromethane. The organic layer was dried over sodium sulfate and concentrated to give 7.21 g of 2-(3-Cyclobutyl-1-methyl-2-oxo-2,3-dihydro-1H-benzoimidazol-5-yl)-N-methoxy-N-methyl-acetamide.

reactant | (1-Cyclobutyl-3-methyl-2-oxo-2,3-dihydro-1H-benzoimidazol-5-yl)-acetic acid | 11.99 g | C1(CCC1)N1C(N(C2=C1C=CC(=C2)CC(=O)O)C)=O | C14H16N2O3
reactant | carbonyl diimidazole | 7.5 g | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | N,O-dimethylhydroxylamine hydrochloride | 4.4 g | Cl.CNOC
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | 2-(3-Cyclobutyl-1-methyl-2-oxo-2,3-dihydro-1H-benzoimidazol-5-yl)-N-methoxy-N-methyl-acetamide | 7.21 g | C1(CCC1)N1C(N(C2=C1C=C(C=C2)CC(=O)N(C)OC)C)=O | C16H21N3O3
